US09102591B2
2-chloro-N-[3-cyclopropyl-2-[6-(trifluoromethyl)-3-pyridyl]propyl]-3-methoxybenzamide
From 2-chloro-3-methoxybenzoic acid and 3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propan-1-amine. LCMS (MH+): m/z=413.1, tR (minutes, Method G)=2.84

reactant | 2-chloro-3-methoxybenzoic acid | ClC1=C(C(=O)O)C=CC=C1OC | C8H7ClO3
reactant | 3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propan-1-amine | C1(CC1)CC(CN)C=1C=NC(=CC1)C(F)(F)F | C12H15F3N2
product | 2-chloro-N-[3-cyclopropyl-2-[6-(trifluoromethyl)-3-pyridyl]propyl]-3-methoxybenzamide | ClC1=C(C(=O)NCC(CC2CC2)C=2C=NC(=CC2)C(F)(F)F)C=CC=C1OC | C20H20ClF3N2O2
